Name:  ___)          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Ciprofloxacin Hcl / Penicillins / Bactrim / Cephalexin / 
Nitrofurantoin / Dilantin Kapseal / Tegretol / Iodine-Iodine 
Containing / Phenobarbital
 
Attending: ___.
 
Chief Complaint:
Gastro and duodenal perforation 
 
Major Surgical or Invasive Procedure:
___:
PROCEDURES:
1. Exploratory laparotomy.
2. Extensive lysis of adhesions.
3. Exploration of the duodenum with identification of tiny
    retroperitoneal perforation.
4. Excision of duodenal adenoma residual with primary
    repair of duodenal perforation.
5. Pedicled omental flap for protection of duodenal repair.
6. Placement of combination gastrojejunostomy tube for
    drainage and tube feeds, transgastric approach.
7. Repair of gastric perforation.
8. Pedicled omental flap for protection of gastric
    perforation.
9. Wide drainage of perforated areas with ___ drains.

 
History of Present Illness:
The patient is a ___ with D2/D3 sessile polyp, being followed 
since ___ (biopsy: adenoma), underwent EGD and EMR via 
avulsion technique today.  ___, RN reports she was 
agitated with increasing HR and BP.  She vomited 3x (about 100cc 
of blood total), and desaturated to 73% despite face mask.  She 
was subsequently intubated for airway protection.  She was also 
noted
to have crepitus. The surgical team was consulted for possible 
gastro-duoidenal perforation and patient was taken in OR for 
emergency procedure. 
 
Past Medical History:
Past Medical History:  
1. s/p cadaveric Renal transplant: ___, ESRD ___ chronic 
reflux nephropathy, on prednisone and sirolimus; baseline Cr 
1.0-1.2  
2. Osteopenia ___ chronic steroid use.  
3. Osteonecrosis of feet c/b osteomyelitis  
4. CAD: NSTEMI ___, s/p cardiac cath without intervention  
5. Hyperlipidemia  
6. GERD  
7. s/p craniotomy for ICH (?intracranial aneurysm)  
8. s/p foot surgeries  
9. s/p cholecystecomy, s/p appendectomy  
10. Hx of c.diff 2 and ___ yrs ago  
11. Hx of MRSA osteo ___  
12. Cataract surgery  

 
Social History:
___
Family History:
Son with DM. 
 
Physical Exam:
Prior Discharge:
VS: 98.0, 90, 118/60, 18, 99% RA
GEN: NAD, pleasant
CV: RRR,, no m/r/g
PULM: CTAB
ABD: Right midline incision open to air with steri strips and 
c/d/i. Midline G/J tube capped, site with drian sponge and 
c/d/i. Old JP site open to air with steri strips and c/d/i
EXTR: Warm
 
Pertinent Results:
___ 07:40AM BLOOD WBC-5.0 RBC-3.06* Hgb-8.7* Hct-27.9* 
MCV-91 MCH-28.4 MCHC-31.2 RDW-14.5 Plt ___
___ 07:40AM BLOOD Glucose-106* UreaN-30* Creat-1.0 Na-140 
K-4.0 Cl-99 HCO3-34* AnGap-11
___ 07:40AM BLOOD Calcium-8.5 Phos-2.3* Mg-1.6
___ 07:36AM BLOOD tacroFK-5.8

URINE CULTURES: Pending.

___ EGD:
Impression: 
Normal esophagus with irregular Z-line and small hiatal hernia 
Normal stomach. 
The previously identified 10-15mm flat polyp was identified in 
the ___ duodenum, just distal to the ampulla. 
EMR was undertaken.   The periphery of the polyp lifted well, 
however the central portion lifted partially.  
After in-room consultation with expert colleagues, we proceeded 
with an avulsion technique EMR to attempt removal of the polyp, 
as the alternative here would be surgical resection. 4 pieces 
were taken with the forceps.  Visualization was limited at that 
point due to bowel contraction, so additional samples were not 
taken. 
 
___ UGI:
IMPRESSION:  
No obstruction or leak was demonstrated in the distal esophagus, 
stomach, or duodenum. Duodenal diverticula were seen. 

 
Brief Hospital Course:
The patient with history of duodenal polyps was transferred to 
the Surgical Oncology Service for emergent surgical repair of 
Gastro-duodenal perforation s/p EGD. The patient underwent 
exploratory laparotomy with extensive lysis of adhesions, 
excision of duodenal adenoma residual with primary repair of 
duodenal perforation, pedicled omental flap for protection of 
duodenal repair, repair of gastric perforation and G/J-tube 
placement, which went well without complication (please see the 
Operative Note for details). The patient was transferred in TICU 
post op on Protonix gtt. Patient received one unit of pRBC. She 
was extubated on POD 1 and was transferred to the floor on POD 2 
in stable condition. The patient arrived on the floor NPO, on IV 
fluids and antibiotics, with a foley catheter, and Dilaudid PCA 
for pain control. Nephrology team was consulted to manage 
patient's immune suppressions. The patient was hemodynamically 
stable.
Neuro: The patient received Dilaudid PCA with good effect and 
adequate pain control.  When tolerating oral intake, the patient 
was transitioned to oral pain medications.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, and incentive spirrometry were encouraged throughout 
hospitalization.
GI/GU/FEN: Post-operatively, the patient was made NPO with IV 
fluids. Tubefeed was started on POD 3 and slow advanced to goal. 
On POD 5, patient had upper GI swallowing test, which was 
negative for leak and patient's diet was advanced to clears. 
Diet was progressively advanced to regular soft on POD 7 and 
tubefeed was weaned off. Patient's intake and output were 
closely monitored, and IV fluid was adjusted when necessary.  
Electrolytes were routinely followed, and repleted when 
necessary.
GU: Patient with history of kidney transplant s/t ESRD. 
Nephrology followed the patient and her meds were adjusted to 
renal function test. She was remained on her immune suppressants 
during hospitalization and Prograf level was monitored daily. 
ID: Patient was started on Zosyn/Vanc post op, further her 
antibiotics were narrowed to Augmentin. She was found to have 
UTI and was started on Cipro, urine cultures still pending prior 
discharge. Patient remained afebrile with WBC within normal 
limit prior discharge, she will finish her course of antibiotics 
as outpatient.
Endocrine: No issues 
Hematology: The patient received one unit of pRBC post op for 
HCT drop to 28 from 35. The patient's complete blood count was 
examined routinely; no further transfusions were required.
Prophylaxis: The patient received subcutaneous heparin and 
venodyne boots were used during this stay.
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating a regular 
diet, voiding without assistance, and pain was well controlled.  
The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan.

 
Medications on Admission:
Ambien 10 qhs prn, ASA 81', Klonopin 0.5', Crestor 40', Lasix 
___ prn, levothyroxine 125mcg', Zofran 4''' prn, omeprazole 
20', Mirapex 0.125 prn, OxyContin 30", oxycodone 5" prn, 
prednisone 5', Compazine 10' prn, ranitidine 150", tacrolimus 
1.5/0.5, Zantac, acyclovir 400', calcitriol 0.25mcg", MVI', vit 
C, vit D3

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H pain 
2. Acyclovir 400 mg PO DAILY 
3. Amoxicillin-Clavulanate Susp. 875 mg PO Q12H 
___ last day to take this medication 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 by mouth every 
twelve (12) hours Disp #*7 Tablet Refills:*0
4. Aspirin (Buffered) 81 mg PO DAILY 
5. Calcitriol 0.25 mcg PO BID 
6. Ciprofloxacin HCl 250 mg PO Q12H 
___ last day for this medication 
RX *ciprofloxacin [Cipro] 250 mg 1 tablet(s) by mouth every 
twelve (12) hours Disp #*13 Tablet Refills:*0
7. Levothyroxine Sodium 125 mcg PO DAILY 
8. Omeprazole 20 mg PO BID 
9. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
10. OxyCODONE SR (OxyconTIN) 30 mg PO Q12H 
11. PredniSONE 5 mg PO DAILY 
12. Ranitidine 150 mg PO BID 
13. Rosuvastatin Calcium 40 mg PO DAILY 
14. Tacrolimus 0.5 mg PO Q12H 
please see your Nephrologist within one week after discharge to 
recheck your Tacrolimus level 
RX *tacrolimus [Prograf] 0.5 mg 1 capsule(s) by mouth every 
twelve (12) hours Disp #*20 Capsule Refills:*0
15. Furosemide ___ mg PO DAILY:PRN fluid overload 
16. Zolpidem Tartrate 10 mg PO HS:PRN insomnia 
17. ClonazePAM 0.5 mg PO DAILY:PRN anxiety 
18. Ondansetron 4 mg PO Q8H:PRN nausea 
19. Voltaren (diclofenac sodium) 1 % topical QD 
please apply on affected areas 
RX *diclofenac sodium [Voltaren] 1 % 1 once a day Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
1. Duodenal polyp.
2. Perforation in the duodenum.
3. Multiple medical comorbidities including ischemic heart 
disease, chronic renal failure, status post kidney transplant, 
morbid obesity.
4. Gastric perforation.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
You were admitted to the surgery service at ___ after 
gastro-duodenal perforation s/p ERCP for surgical repair. You 
have done well in the post operative period and are now safe to 
return home to complete your recovery with the following 
instructions:
.
Please call Dr. ___ office at ___ if you have any 
questions or concerns.
.
Please continue to take 0.5 mg of Tacrolimus Q12H and follow up 
with your Nephrologist within a week to recheck Tacrolimus 
level. 
.
Please resume all regular home medications , unless specifically 
advised not to take a particular medication.  Also, please take 
any new medications as prescribed.
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon, who will instruct you further regarding activity 
restrictions.
Avoid driving or operating heavy machinery while taking pain 
medications.
Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.
Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water.  Gently pat the area dry.
*If you have steri-strips, they will fall off on their own.  
Please remove any remaining strips ___ days after surgery.
.
G/J-tube: Keep capped. Monitor for signs and symptoms of 
infection or dislocation.
 

 
Followup Instructions:
___